US07855292B2
G. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[(1R,2S)-2-(4-chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-benzamide
2-(Benzo[1,2,5]-thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid was coupled with (1S,2R)-2-amino-1-(4-chloro-phenyl)-propan-1-ol hydrochloride as in EXAMPLE 1, Part C. HPLC: RT=10.17 min. MS (ESI−): mass calcd. for C22H18Cl2N4O4S2, 536.01; m/z found, 535/537 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.64 (s, 1H), 8.39 (dd, J=7.0, 1.0, 1H), 8.23 (dd, J=8.8, 1.0, 1H), 7.73 (dd, J=8.8, 7.0, 1H), 7.72 (d, J=2.0, 1H), 7.38-7.33 (m, 2H), 7.33-7.28 (m, 2H), 7.24 (d, J=8.5, 1H), 6.95 (dd, J=8.4, 2.0, 1H), 6.22 (br d, J=8.1, 1H), 4.97 (d, J=2.9, 1H), 4.42 (ddq, J=8.3, 7.0, 2.9, 1H), 1.04 (d, J=6.9, 3H).

reactant | 2-(Benzo[1,2,5]-thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | (1S,2R)-2-amino-1-(4-chloro-phenyl)-propan-1-ol hydrochloride | Cl.N[C@@H]([C@@H](O)C1=CC=C(C=C1)Cl)C
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[(1R,2S)-2-(4-chloro-phenyl)-2-hydroxy-1-methyl-ethyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H]([C@@H](O)C1=CC=C(C=C1)Cl)C)C=CC(=C2)Cl | C22H18Cl2N4O4S2
